M1 3 2 1 1 pfet W=28u L=1u
M2 2 2 1 1 pfet W=28u L=1u
M3 5 2 1 1 pfet W=28u L=1u
M4 6 4 3 1 pfet W=28u L=1u
M5 4 4 2 1 pfet W=28u L=1u
M6 vref 4 5 1 pfet W=28u L=1u
M7 6 6 7 0 nfet W=14u L=1u
M8 4 6 8 0 nfet W=14u L=1u
M_pd 6 en_bar 0 0 nfet W=8U L=1U
M_pass 4 en 4x 0 nfet W=2U L=2U
Minv_p en_bar en 1 1 pfet W=3U L=1U
Minv_n en_bar en 0 0 nfet W=2U L=1U
M9 a 2 1 1 pfet W=12U L=1u
M10 6 a 4x 1 pfet W=12U L=0.8U
M11 a a b 0 nfet W=1U L=3u
M12 b b c 0 nfet W=1U L=3u
M13 c c 0 0 nfet W=1U L=3U
D1 7 0 PNPDIODE    
R1 8 9 9K    
D2 9 0 PNPDIODE 8   
R2 vref 10 76K    
D3 10 0 PNPDIODE 8   
